US05474988
A mixture of 76.4 g of 2-aminophenol and 68.6 g of maleic anhydride in 1 liter of methanol was stirred at room temperature. After addition of 100 ml of triethylamine, the yellow mass dissolved and the solution was heated for 7 hours at reflux temperature. The methanol was then removed by evaporation under reduced pressure, and the remaining oil was added to ice-water. The mixture was extracted with dichloromethane, and the organic extract was dried over sodium sulfate and evaporated. The remaining residue was crystallized from ethanol. In this way, 47.5 g of methyl (3-oxo-2,3-dihydro-4H-1,4-benzoxazin-2-yl)acetate were obtained as white crystals having a melting point of 140° C.

reactant | 2-aminophenol | 76.4 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | maleic anhydride | 68.6 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 1 liter | CO | CH4O
product | methyl (3-oxo-2,3-dihydro-4H-1,4-benzoxazin-2-yl)acetate | 47.5 g | O=C1C(OC2=C(N1)C=CC=C2)CC(=O)OC | C11H11NO4
